* tb_pll_lock -- closed-loop acquisition, mixed level.
*
* Everything in the loop is the real cell -- PFD, charge pump, loop filter, divider --
* except the VCO, which is behavioural. That is deliberate, not a shortcut: a
* transistor-level ring has to be integrated at picosecond steps while the loop settles
* over tens of microseconds, which is seven orders of magnitude apart. A run of the full
* transistor loop reached 18 ns of a 30 us target. Loop dynamics are what this bench is
* for, and the behavioural VCO is matched to the MEASURED tuning curve of the real ring.
*
* VCO model: f(vctrl) = F0 + KVCO*(vctrl - VC0), taken from tb_vco_sweep on the loaded
* ring around the N=16 / 256 MHz operating point, which is the highest-Kvco corner and so
* the most aggressive loop gain among the selectable settings.
*
* Phase is integrated by a capacitor driven by a current equal to the instantaneous
* frequency, so v(ph) is the cycle count; the output is a square wave off its fraction.
.lib $PDK_ROOT/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib $PDK_ROOT/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib res_typ
.include $PDK_ROOT/ihp-sg13cmos5l/libs.tech/ngspice/models/cap_cmomf.lib
.include $PDK_ROOT/ihp-sg13cmos5l/libs.ref/sg13cmos5l_stdcell/spice/sg13cmos5l_stdcell.spice
.global sub!
* pll_cells.spice holds the real .subckt definitions, extracted from the top-level
* netlist. Including a sub-cell netlisted as TOP does not work: xschem comments out its
* own .subckt line, so the devices land at top scope instead of defining a subcircuit.
.include pll_cells.spice

.param F0=256.6e6 KVCO=1653e6 VC0=0.70

Vdd  vdd  0 1.2
Vss  vss  0 0
Vsub sub! 0 0
Ibias 0 ibias DC 1u

Vref ref 0 PULSE(0 1.2 5n 200p 200p 3n 62.5n)
Vpor  porb 0 PWL(0 0 20n 0 21n 1.2 1 1.2)
Vrstb rstb 0 PWL(0 0 20n 0 21n 1.2 1 1.2)
Vn0 nsel0 0 1.2
Vn1 nsel1 0 1.2

* --- behavioural VCO: phase integrator + square-wave slicer ---
* CLAMPED. A bare linear Kvco model goes NEGATIVE below vctrl ~0.545 V, and a negative
* frequency makes the phase integrator run backwards -- the divider then speeds up as
* vctrl falls, which is positive feedback that exists only in the model. The real ring
* saturates instead. Clamping to the measured band keeps the model physical wherever the
* loop wanders during acquisition.
Gph  0 ph  cur = 'min(max(F0 + KVCO*(V(vctrl) - VC0), 20e6), 760e6)'
Cph  ph 0 1
Rph  ph 0 1e12
* A hard slicer (tanh with high gain) makes this stiff: the solver is forced to resolve
* every VCO edge at picosecond scale and a 40 us run managed 46 ns. A plain sine still
* drives the divider's first flop rail to rail and integrates far more cheaply.
Bvco vco_out 0 V = '0.6 + 0.6*sin(6.283185307*V(ph))'

* --- the real blocks ---
Xpfd ref div_out porb up dn vdd vss pfd
Xcp  up dn ibias vctrl vdd vss charge_pump
Xlf  vctrl vss loop_filter
Xdiv vco_out rstb nsel0 nsel1 div_out vdd vss divn

* start below the lock point but inside the valid tuning band, so this is a real
* pull-in rather than a excursion through a region the model cannot represent
.ic v(ph)=0 v(vctrl)=0.60

.control
  * The designed loop bandwidth is ~1.2 MHz at this corner, so acquisition happens in a
  * few microseconds; 8 us covers it without paying for 40 us of locked steady state.
  tran 100p 8u uic
  meas tran vc1u FIND v(vctrl) AT=1u
  meas tran vc2u FIND v(vctrl) AT=2u
  meas tran vc4u FIND v(vctrl) AT=4u
  meas tran vc6u FIND v(vctrl) AT=6u
  meas tran vc78 FIND v(vctrl) AT=7.8u
  * locked output frequency, from the phase integrator over the last 10 us
* AT=30u here was a leftover from an earlier 30 us target while the transient stops at
* 8 us. ngspice reported "out of interval", left ph6u unset, and the run still exited 0 --
* the exact shape of failure the reporting script exists to catch. The name is the spec.
  meas tran ph6u FIND v(ph) AT=6u
  meas tran ph78 FIND v(ph) AT=7.8u
  wrdata /work/sim/lock.csv v(vctrl)
.endc
.end
